US07592457B2
The objective compound was prepared by the same procedure for the example 39 and 40, using a 3-(4-amino-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione (235 mg, 0.70 mmol), acetaldehyde (148 mL, 2.10 mmol), and sodium borocyanohydride (44 mg, 0.70 mmol). After normal workup, The residue was purified by a flash column chromatography (n-hexane:EtOAc=8:1) to give two separable objective chemical compounds of 5,7-dichloro-3-methyl-3-(4-ethylamino-phenyl)-1H-quinoline-2,4-dione (10 mg, 4%, yellow solid) and 5,7-dichloro-3-(4-diethylamino-phenyl)-3-methyl-1H-quinoline-2,4-dione (220 mg, 87%, pale yellow solid:

reactant | 3-(4-amino-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.70 mmol, 235 mg | NC1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H12Cl2N2O2
reactant | acetaldehyde | 2.10 mmol, 148 mL | C(C)=O | C2H4O
reactant | sodium | [Na] | Na
product | 5,7-dichloro-3-methyl-3-(4-ethylamino-phenyl)-1H-quinoline-2,4-dione | 10 mg, 4% | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C1=CC=C(C=C1)NCC)C)=O | C18H16Cl2N2O2
